US08420823B2
N-(4-cyano-1H-imidazol-5-yl)-3-(piperidin-1-ylsulfonyl)benzamide
The entitled compound was produced according to the method of Example 92 but using 3-(piperidin-1-ylsulfonyl)benzoic acid and 5-amino-1H-imidazole-4-carbonitrile as the starting materials.

reactant | 3-(piperidin-1-ylsulfonyl)benzoic acid | N1(CCCCC1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C12H15NO4S
reactant | 5-amino-1H-imidazole-4-carbonitrile | NC1=C(N=CN1)C#N | C4H4N4
product | N-(4-cyano-1H-imidazol-5-yl)-3-(piperidin-1-ylsulfonyl)benzamide | C(#N)C=1N=CNC1NC(C1=CC(=CC=C1)S(=O)(=O)N1CCCCC1)=O | C16H17N5O3S
